US08110585B2
methyl 5-chloro-2-methyl-2H-indazole-4-carboxylate
To a solution of methyl 5-chloro-2H-indazole-4-carboxylate (3.80 g, 18.0 mmol) in ethyl acetate (72 mL) was added trimethyloxonium tetrafluoroborate (3.47 g, 23.5 mmol) at room temperature, and the mixture was stirred for 5 hr. The reaction solution was diluted with water, and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate and the solvent was evaporated under reduced pressure. The residue was purified by flash silica gel column chromatography (ethyl acetate/hexane=1/3) to give the title compound (3.20 g, yield 79%).

reactant | methyl 5-chloro-2H-indazole-4-carboxylate | 18.0 mmol, 3.80 g | ClC1=C(C2=CNN=C2C=C1)C(=O)OC | C9H7ClN2O2
reactant | trimethyloxonium tetrafluoroborate | 23.5 mmol, 3.47 g | F[B-](F)(F)F.C[O+](C)C
solvent | ethyl acetate | 72 mL | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | methyl 5-chloro-2-methyl-2H-indazole-4-carboxylate | 3.20 g, yield 79% | ClC1=C(C2=CN(N=C2C=C1)C)C(=O)OC | C10H9ClN2O2
